US07122565B2
To a solution of 4-bromo-3-methoxy-benzoic acid methyl ester (6.875 mmol, 1.676 mL) in a mixture 1:1 of THF/MeOH (15 mL), lithium hydroxide (7.553 mmol, 0.180 g) was added, and the reaction was stirred at RT overnight before distillation of volatiles. The residue was diluted with water, acidified with a solution of HCl (1N), and stirred for 1 hour. The formed precipitate was filtered off, and washed with water and petroleum ether to give 4-bromo-3-methoxy-benzoic acid. Yield: 56%.

reactant | 4-bromo-3-methoxy-benzoic acid methyl ester | 6.875 mmol, 1.676 mL | COC(C1=CC(=C(C=C1)Br)OC)=O | C9H9BrO3
reactant | THF MeOH | 15 mL | C1CCOC1.CO
reactant | lithium hydroxide | 7.553 mmol, 0.180 g | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
product | 4-bromo-3-methoxy-benzoic acid | Yield: 56% | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
